* C:\sandbox\spicelib_dev\examples\testfiles\all_elements.qsch
B1 N01 0 V={time}
C1 N04 0 100n
D1 0 N05 1N4148
E1 VDVSx1 0 N07 0 1
F2 0 N27 B1 1
H1 N26 0 B1 1
I1 0 N25 1µ
L1 N12 0 4.7µ
×1 «N59 0 N58 0» Turns=1 1
¥1 VDD 0 DQ1 DQn1 N67 N66 0 CLR ¥ ¥ ¥ ¥ ¥ ¥ ¥ ¥ D-FLOP
¥2 VDD 0 DQ2 DQn2 N67 N66 ¥0 ¥1 VDD ¥ ¥ ¥ ¥ ¥ ¥ ¥ JK-FLOP
¥3 VDD 0 AND3_OUT AND3_OUTn DQ1 DQ2 ¥ ¥ ¥ ¥ ¥ ¥ ¥ ¥ ¥ ¥ AND
Ã1 VDD 0 N69 N69 N68 ¥ ¥ ¥ ¥ ¥ ¥ ¥ ¥ ¥ ¥ ¥ RRopAmp Avol=100K GBW=5Meg Slew=5Meg Rload=2K Phi=60
B2 0 N02 I=sin({2*pi*time/1000K})
B3 N03 0 R={1K*time}
R2 N01 0 10K
R3 N02 0 10K
V2 N03 0 1
V3 N04 0 PULSE 0 1 1µ 1n 1n 1m 1 1
C2 N04 0 10µ
C3 N04 0 1µ
C4 N04 0 220µ
C5 N04 0 100µ
V4 N05 0 PWL 0 -5 100m 5
D2 0 N06 1N5818
D3 0 N08 MM3Z3V3T1G
D4 0 N09 D
D5 0 N10 KVX2152
D6 0 N11 D
V5 N06 0 PWL 0 -5 100m 5
B4 N07 0 V={time}
E3 VDVSx2 0 N07 0 2
V6 N08 0 PWL 0 -5 100m 5
V7 N09 0 PWL 0 -5 100m 5
V8 N10 0 PWL 0 -5 100m 5
V9 N11 0 PWL 0 -5 100m 5
J1 N28 N29 0 LSK189 NJF
J2 N32 N30 0 MMBFJ270 PJF
J3 N33 N31 0 UJ3N065025 NJF
V10 N12 0 PULSE 0 1 1µ 1n 1n 1m 1 1
L2 N14 0 10µ
L3 N13 0 1µ
V11 N14 0 PULSE 0 1 1µ 1n 1n 1m 1 1
V12 N13 0 PULSE 0 1 1µ 1n 1n 1m 1 1
O1 N15 0 N16 N17 LTL_MODEL
R4 N16 N17 50
V13 N15 0 PULSE 0 1 1µ 1n 1n 1m 1 1
T1 N18 0 N19 N20 Td=10n Z0=50
R5 N19 N20 50
V14 N18 0 PULSE 0 1 1µ 1n 1n 1m 1 1
Q2 N34 N35 0 [0] MMBT2222A NPN
Q3 0 N39 N38 [0] ZXTP2027F PNP
Q4 N40 N41 N70 [0] NPN NPN
Q5 N71 N37 N36 [0] LPNP PNP
Q6 N72 N45 N44 [0] PNP PNP
B5 N24 0 V={time}
S1 N22 0 N23 0 MySW
S2 N21 0 0 N23 MySW
R6 N22 N24 1K
R7 N21 N24 2K
V15 N23 0 PULSE 0 1 1µ 1n 1n 1m 1 1
R8 N27 0 1K
R9 N26 0 1K
R10 N25 0 1K
V16 N28 0 10
V17 N29 0 PWL 0 -5 100m 5
V18 N30 0 PWL 0 -5 100m 5
V19 N31 0 PWL 0 -5 100m 5
V20 N32 0 10
V21 N33 0 1000
V22 N34 0 10
V23 N35 0 PWL 0 -5 100m 5
V24 N36 0 10
V25 N37 0 PWL 0 -5 100m 5
V26 N38 0 10
V27 N39 0 PWL 0 -5 100m 5
V28 N40 0 10
V29 N41 0 PWL 0 -5 100m 5
V30 N70 0 1
W1 N43 0 B5 CSW
V31 N71 0 1
U1 N46 N47 0 urcmodel N=10
Y1 N49 0 10Meg dF=100Hz Ctot=10pF
V32 N42 0 1
R11 N42 N43 1K
V33 N44 0 10
V34 N45 0 PWL 0 -5 100m 5
V35 N72 0 1
V36 N46 0 PULSE 0 1 1µ 1n 1n 1m 1 1
R1 N47 N48 50
V37 N49 0 PULSE 0 1 1µ 1n 1n 1m 1 1
M1 N50 N51 0 0 2N7002 NMOS
M2 0 N53 N52 N52 PXP015-30QL PMOS
M3 N54 N55 N73 0 NMOS NMOS
M4 N74 N57 N56 0 PMOS PMOS
V1 N50 0 10
V38 N51 0 PWL 0 -5 100m 5
V39 N52 0 10
V40 N53 0 PWL 0 -5 100m 5
V41 N54 0 10
V42 N55 0 PWL 0 -5 100m 5
V43 N73 0 1
V44 N56 0 10
V45 N57 0 PWL 0 -5 100m 5
V46 N74 0 1
R12 N58 0 1K
V47 N59 0 SINE 0 10 50
L4 N60 0 1µ
L5 N61 0 1µ
V48 N60 0 SINE 0 10 50
R13 N61 0 1K
Z1 N62 N63 0 NMF NMF
Z2 0 N65 N64 PMF PMF
V49 N62 0 10
V50 N63 0 PWL 0 -5 100m 5
V51 N64 0 10
V52 N65 0 PWL 0 -5 100m 5
V53 VDD 0 5
V54 N66 0 PULSE 0 5 5µ 1n 1n 50µ 100µ
V55 CLR 0 PULSE 0 5 10m 1n 1n 50µ 10m
V56 N67 0 PULSE 0 5 1m 1n 1n 50µ 1m
.TRAN 100m
.model urcmodel URC CPERL=100p RPERL=50m
K1 L4 L5 1
.model LTL_MODEL LTRA
.model MySW SW
.model MyCSW CSW
.lib C:\PROGRA~1\QSPICE\Diode.txt
.lib C:\PROGRA~1\QSPICE\Schottky.txt
.lib C:\PROGRA~1\QSPICE\Zener.txt
.lib C:\PROGRA~1\QSPICE\Varactor.txt
.lib C:\PROGRA~1\QSPICE\NJF.txt
.lib C:\PROGRA~1\QSPICE\PJF.txt
.lib C:\PROGRA~1\QSPICE\PwrNJF.txt
.lib C:\PROGRA~1\QSPICE\NPN.txt
.lib C:\PROGRA~1\QSPICE\PNP.txt
.lib C:\PROGRA~1\QSPICE\NMOS.txt
.lib C:\PROGRA~1\QSPICE\PMOS.txt
.end
