* C:\sandbox\spicelib_dev\examples\testfiles\all_elements.qsch
B1 N01 0 V={time}
C1 N04 0 100n
D1 0 N05 1N4148
E1 VDVSx1 0 N07 0 1
F2 0 N27 B1 1
H1 N26 0 B1 1
I1 0 N25 1µ
L1 N12 0 4.7µ
×1 «N59 0 N58 0» Turns=1 1
¥1 VDD 0 DQ1 DQn1 N67 N66 0 CLR ¥ ¥ ¥ ¥ ¥ ¥ ¥ ¥ D-FLOP
¥2 VDD 0 DQ2 DQn2 N67 N66 ¥0 ¥1 VDD ¥ ¥ ¥ ¥ ¥ ¥ ¥ JK-FLOP
¥3 VDD 0 AND3_OUT AND3_OUTn DQ1 DQ2 ¥ ¥ ¥ ¥ ¥ ¥ ¥ ¥ ¥ ¥ AND
Ã1 VDD 0 N69 N69 N68 ¥ ¥ ¥ ¥ ¥ ¥ ¥ ¥ ¥ ¥ ¥ RRopAmp Avol=100K GBW=5Meg Slew=5Meg Rload=2K Phi=60
B2 0 N02 I=sin({2*pi*time/1000K})
B3 N03 0 R={1K*time}
R2 N01 0 10K
R3 N02 0 10K
V2 N03 0 1
V3 N04 0 PULSE 0 1 1µ 1n 1n 1m 1 1
C2 N04 0 10µ
C3 N04 0 1µ
C4 N04 0 220µ
C5 N04 0 100µ
V4 N05 0 PWL 0 -5 100m 5
D2 0 N06 1N5818
D3 0 N08 MM3Z3V3T1G
D4 0 N09 D
D5 0 N10 KVX2152
D6 0 N11 D
V5 N06 0 PWL 0 -5 100m 5
B4 N07 0 V={time}
E3 VDVSx2 0 N07 0 2
V6 N08 0 PWL 0 -5 100m 5
V7 N09 0 PWL 0 -5 100m 5
V8 N10 0 PWL 0 -5 100m 5
V9 N11 0 PWL 0 -5 100m 5
J1 N28 N29 0 LSK189 NJF
J2 N32 N30 0 MMBFJ270 PJF
J3 N33 N31 0 UJ3N065025 NJF
V10 N12 0 PULSE 0 1 1µ 1n 1n 1m 1 1
L2 N14 0 10µ
L3 N13 0 1µ
V11 N14 0 PULSE 0 1 1µ 1n 1n 1m 1 1
V12 N13 0 PULSE 0 1 1µ 1n 1n 1m 1 1
O1 N15 0 N16 N17 LTL_MODEL
R4 N16 N17 50
V13 N15 0 PULSE 0 1 1µ 1n 1n 1m 1 1
T1 N18 0 N19 N20 Td=10n Z0=50
R5 N19 N20 50
V14 N18 0 PULSE 0 1 1µ 1n 1n 1m 1 1
Q2 N34 N35 0 [0] MMBT2222A NPN
Q3 0 N39 N38 [0] ZXTP2027F PNP
Q4 N40 N41 N70 [0] NPN NPN
Q5 N71 N37 N36 [0] LPNP PNP
Q6 N72 N45 N44 [0] PNP PNP
B5 N24 0 V={time}
S1 N22 0 N23 0 MySW
S2 N21 0 0 N23 MySW
R6 N22 N24 1K
R7 N21 N24 2K
V15 N23 0 PULSE 0 1 1µ 1n 1n 1m 1 1
R8 N27 0 1K
R9 N26 0 1K
R10 N25 0 1K
V16 N28 0 10
V17 N29 0 PWL 0 -5 100m 5
V18 N30 0 PWL 0 -5 100m 5
V19 N31 0 PWL 0 -5 100m 5
V20 N32 0 10
V21 N33 0 1000
V22 N34 0 10
V23 N35 0 PWL 0 -5 100m 5
V24 N36 0 10
V25 N37 0 PWL 0 -5 100m 5
V26 N38 0 10
V27 N39 0 PWL 0 -5 100m 5
V28 N40 0 10
V29 N41 0 PWL 0 -5 100m 5
V30 N70 0 1
W1 N43 0 B5 CSW
V31 N71 0 1
U1 N46 N47 0 urcmodel N=10
Y1 N49 0 10Meg dF=100Hz Ctot=10pF
V32 N42 0 1
R11 N42 N43 1K
V33 N44 0 10
V34 N45 0 PWL 0 -5 100m 5
V35 N72 0 1
V36 N46 0 PULSE 0 1 1µ 1n 1n 1m 1 1
R1 N47 N48 50
V37 N49 0 PULSE 0 1 1µ 1n 1n 1m 1 1
M1 N50 N51 0 0 2N7002 NMOS
M2 0 N53 N52 N52 PXP015-30QL PMOS
M3 N54 N55 N73 0 NMOS NMOS
M4 N74 N57 N56 0 PMOS PMOS
V1 N50 0 10
V38 N51 0 PWL 0 -5 100m 5
V39 N52 0 10
V40 N53 0 PWL 0 -5 100m 5
V41 N54 0 10
V42 N55 0 PWL 0 -5 100m 5
V43 N73 0 1
V44 N56 0 10
V45 N57 0 PWL 0 -5 100m 5
V46 N74 0 1
R12 N58 0 1K
V47 N59 0 SINE 0 10 50
L4 N60 0 1µ
L5 N61 0 1µ
V48 N60 0 SINE 0 10 50
R13 N61 0 1K
Z1 N62 N63 0 NMF NMF
Z2 0 N65 N64 PMF PMF
V49 N62 0 10
V50 N63 0 PWL 0 -5 100m 5
V51 N64 0 10
V52 N65 0 PWL 0 -5 100m 5
V53 VDD 0 5
V54 N66 0 PULSE 0 5 5µ 1n 1n 50µ 100µ
V55 CLR 0 PULSE 0 5 10m 1n 1n 50µ 10m
V56 N67 0 PULSE 0 5 1m 1n 1n 50µ 1m
Ø´X1 «CLK´b PRESET´b NIBBLE´uc» «OUT´uc MATCHED´b» «»  counter shortfloat test = 2
V101 NIBBLE 0 6
V102 CLK 0 PULSE 0 1 0 1µ 1µ .5m 1m
V103 PRESET 0 pulse 0 1 25m 1µ 1µ .2m 25m
€1 ¥2 ¥3 ¥4 ¥5 ¥6 ¥7 ¥8 ¥9 ¥10 ¥11 ¥12 ¥13 ¥ ¥ ¥ ¥ ¥14 ¥ ¥ ¥ ¥ ¥ ¥ ¥ ¥ ¥ ¥ ¥ ¥ ¥ ¥ ¥ DAC Rdac=val
£1 ¥15 ¥16 ¥17 ¥18 ¥19 ¥20 ¥ ¥ ¥ ¥ ¥ ¥ ¥ ¥ ¥ ¥ ¥ ¥ ¥ ¥ ¥ ¥ ¥ ¥ ¥ ¥ ¥ ¥ ¥ ¥ ¥ ¥ ¥ ¥ ¥ ¥ ¥ ¥ ¥ ¥ ¥ ¥ ¥ ¥ ¥ ¥ ¥ ¥ ¥ ¥ ¥ ¥ ¥ ¥ ¥ ¥ ¥ ¥ ¥ ¥ ¥ ¥ ¥ ¥ 3STATE
.TRAN 100m
.model urcmodel URC CPERL=100p RPERL=50m
K1 L4 L5 1
.model LTL_MODEL LTRA
.model MySW SW
.model MyCSW CSW
.lib Diode.txt
.lib Schottky.txt
.lib Zener.txt
.lib Varactor.txt
.lib NJF.txt
.lib PJF.txt
.lib PwrNJF.txt
.lib NPN.txt
.lib PNP.txt
.lib NMOS.txt
.lib PMOS.txt
.end
